US04284631
Phosphoryl chloride (0.754 g.) was added dropwise to a solution of N,N-dimethylformamide (0.36 g.) in ethyl acetate (2 ml.) at -10° to -5° C. and stirred at the same temperature for 30 minutes. Ethyl acetate (13 ml.) and 2-(2-formamidothiazol-4-yl)-2-methylthiomethoxyiminoacetic acid (syn isomer, 1.13 g.) were added to the mixture at -10° to 5° C. and stirred at the same temperature for 30 minutes to give an activated acid solution. The solution was added to a solution of 7-amino-3-cephem-4-carboxylic acid (0.82 g.) and bis-(trimethylsilyl)acetamido (4.17 g.) in ethyl acetate (8.2 ml.) at -20° C. and the resulting reaction mixture was stirred at -10° to -5° C. for 30 minutes. After adding water to the resultant solution, the mixture was extracted twice with ethyl acetate. The extracts were washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diisopropyl ether, and the precipitates were collected by filtration and dried to give 7-[2-(2-formamidothiazol-4-yl)-2-methylthiomethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.26 g.).

reactant | Phosphoryl chloride | 0.754 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 0.36 g | CN(C=O)C | C3H7NO
reactant | 2-(2-formamidothiazol-4-yl)-2-methylthiomethoxyiminoacetic acid | 1.13 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCSC | C8H9N3O4S2
reactant | 7-amino-3-cephem-4-carboxylic acid | 0.82 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8.2 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-[2-(2-formamidothiazol-4-yl)-2-methylthiomethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.26 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCSC | C15H15N5O6S3
